US06686381B2
N-{3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-N′-(1,1-dimethylethyl)-sulfamide
900 mg {3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic acid tert-butyl ester was dissolved in diethyl ether and hydrogen chloride in ether added dropwise with stirring. The mixture was stirred overnight at room temperature and poured into saturated aqueous sodium bicarbonate solution. The organics were extracted with dichloromethane (3×25 ml), dried over magnesium sulfate and evaporated under reduced pressure to afford [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone as a yellow gum (579 mg, 88%). A solution of 0.22 ml tert-butanol in hexane (2 ml) was cautiously added to a stirred solution of 0.2 ml chlorosulfonyl isocyanate in hexane (5 ml). The resulting white precipitate was stirred until it had dissolved (1.5 h) and the mixture cooled to −78° C. before the slow addition of a solution of [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone and 0.4 ml triethylamine in dichloromethane. The cooling bath was removed and the yellow mixture allowed to reach room temperature and stirred 2 h at room temperature. The mixture was poured into water and the organics extracted with ethyl acetate (2×25 ml). The combined organics were washed with brine, dried over magnesium sulfate and evaporated. The resulting oil was purified by column chromatography on silica gel (150 g, 2:1 ethyl acetate/hexane) to afford the title compound (241 mg, 24%) as a pale yellow oil. MS (m/e): 409.3 (M−H, 100%)

reactant | tert-butanol | 0.22 ml | C(C)(C)(C)O | C4H10O
reactant | chlorosulfonyl isocyanate | 0.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone | NCCCNC=1SC(=CN1)C(=O)C1=C(C=CC=C1)C | C14H17N3OS
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | hexane | 2 ml | CCCCCC | C6H14
solvent | hexane | 5 ml | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-N′-(1,1-dimethylethyl)-sulfamide | 241 mg, 24% | CC1=C(C(=O)C2=CN=C(S2)NCCCNS(=O)(=O)NC(C)(C)C)C=CC=C1 | C18H26N4O3S2
